data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_115436_1,[C:1](/[C:5](=[N:6]\[N:2]([C:3]([N:4]([H:9])[H:10])=[O:7])[H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]([N:4]([H:9])[H:10])([N:6]1[N:2]([H:8])[C:3]1=[O:7])[H:11])([H:12])([H:13])[H:14],69.10531999998412
MR_580575_2,[C:1]([N:3]([H:9])[H:10])([C:5]1([H:13])[C:2]([N:4]([H:11])[H:12])=[C:6]([H:14])[O:8]1)=[O:7]>>[C:1]1([N:3]([H:9])[H:10])=[C:5]([H:13])[O:8][C:6]([H:14])=[C:2]([N:4]([H:11])[H:12])[O:7]1,51.38032750000619
MR_134067_2,[C:1]([C:2](=[O:7])[H:13])([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:11])[H:12])([O:8][H:10])[H:14])[O:6][H:9]>>[C:1]([C:2]([O:7][H:10])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:11])[H:12])=[O:8])[O:6][H:9],46.645839999974754
MR_479675_1,[C:1](/[C:6](=[C:3]([N:5]([H:12])[H:13])/[N:8]=[C:2](\[N:4]([H:10])[H:11])[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:2]([N:4]([H:10])[H:11])([O:7][H:9])[N:8]=[C:3]1[N:5]([H:12])[H:13])([H:15])([H:16])[H:17],33.44324000002871
MR_318438_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]1([C:3]([H:16])([H:17])[H:18])[C:4]([N:6]([H:11])[H:12])([O:8][H:10])[O:9]1)=[O:7]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([O:7][H:10])[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:11])[H:12])=[O:8])[O:9]1,4.214917500023461
MR_357982_1,[N:1](/[C:2]([O:5][H:7])=[N:6]/[N:4]([H:11])[H:12])([N:3]([H:9])[H:10])[H:8]>>[N:1]1([H:8])[C:2]([O:5][H:7])([N:6]([N:4]([H:11])[H:12])[H:10])[N:3]1[H:9],57.70301750002275
MR_591567_2,[N:1]1([H:8])[C:2]([O:6][H:7])([H:9])[C:4]1([C:3](=[O:5])[H:10])[H:11]>>[N:1]([C:2](=[O:6])[H:9])(/[C:4](=[C:3](\[O:5][H:7])[H:10])[H:11])[H:8],9.718092500004616
MR_148401_1,[C:1]([C:4]([C:3](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:10])=[N:6]\[H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]1(/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:10])/[C:3](=[N:6]/[H:9])[O:8]1)([H:11])([H:12])[H:13],62.40801250002164
MR_307254_0,[C:1](/[C:4](=[N:7]\[C:2](=[C:3](\[O:6][H:9])[H:10])[O:5][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([H:11])[C:3]([O:6][H:9])([H:10])[C:2]([O:5][H:8])=[N:7]1)([H:12])([H:13])[H:14],28.2061249999822
MR_520895_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4](/[C:5]([O:7][H:10])=[N:8]/[C:2]([H:13])([H:14])[H:15])[O:6][H:9])([H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:8]([C:2]([H:13])([H:14])[H:15])/[C:5](=[N:4]\[O:6][H:9])[O:7][H:10])([H:11])[H:12],66.29851250004378
MR_472324_0,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])(/[C:5]([N:6]([H:12])[H:13])=[C:7](/[O:8][H:10])[H:14])[H:11]>>[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:5](/[N:6]([H:12])[H:13])[C:7]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([O:8][H:10])[H:14])[H:11],51.02453499997708
MR_178213_0,[C:1]([N:3]([C:4]([N:6]([H:9])[H:10])=[C:7]([H:17])[H:18])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:8]([H:19])[H:20])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](/[N:6]([H:9])[H:10])[C:7]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:8]([H:19])[H:20])([H:17])[H:18])([H:11])([H:12])[H:13],55.60779499999797
MR_22610_0,[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([N:6]([H:8])[H:9])=[O:7])[C:2]([H:11])([H:12])[C:3]1([H:10])[H:13]>>[C:1]1([C:4]([H:14])([H:15])[H:16])=[C:5]([N:6]([H:8])[H:9])[O:7][C:2]([H:11])([H:12])[C:3]1([H:10])[H:13],58.703880000028335
MR_171027_0,[C:1](/[C:3]([N:4]([H:7])[H:8])=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:13])([N:5]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[C:3](\[N:4]([H:7])[H:8])[C:6]([C:2]([H:14])([H:15])[H:16])([H:12])[H:13])(\[N:5]([H:9])[H:10])[H:11],66.51562749999499
MR_404000_1,[C:1]([O:6][N:2]([N:3]([H:8])[H:9])/[N:7]=[C:5](/[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:6][C:5]([N:4]([H:10])[H:11])(/[N:7]=[N:2]/[N:3]([H:8])[H:9])[H:12])([H:13])([H:14])[H:15],16.648830000019785
MR_701778_1,[C@@:1]([C:3]([H:15])([H:16])[H:17])([N:5](/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]\[C:2]([H:12])([H:13])[H:14])[H:10])([O:7][H:9])[H:11]>>[C@:1]([C:3]([H:15])([H:16])[H:17])([O:7][H:9])([N:8]([C:2]([H:12])([H:13])[H:14])/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:5]/[H:10])[H:11],59.46566499999548
MR_480543_0,[C:1]([C:2](/[C:4]([N:5]([H:12])[H:13])=[C:6](/[O:8][H:11])[H:14])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:2]([H:17])([H:18])[C:4]1([N:5]([H:12])[H:13])[C:6]([C:3]([O:7][H:10])=[O:9])([O:8][H:11])[H:14],61.75478499999443
MR_622781_1,[C:1](/[C:3](=[C:2](\[O:6][C:5](=[O:8])[H:12])[O:7][H:9])[N:4]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C@@:3]1([N:4]([H:10])[H:11])[C@:2]([C:5](=[O:8])[H:12])([O:7][H:9])[O:6]1)([H:13])([H:14])[H:15],32.06399500001538
MR_215622_1,[C:1]([C:2]([H:13])([H:14])[H:15])([O:5][H:8])([O:6][H:9])/[N:7]=[C:4](\[N:3]([H:10])[H:11])[H:12]>>[C:1](\[C:2]([H:13])([H:14])[H:15])([O:5][H:8])=[N:7]\[C:4]([N:3]([H:10])[H:11])([O:6][H:9])[H:12],50.995670000014286
MR_300619_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:6])([N:4]([H:9])[H:10])([O:5][H:7])[H:8]>>[C:1](\[C:3]([C:2]([H:11])([H:12])[H:13])([O:6][H:10])[H:8])(=[N:4]/[H:9])[O:5][H:7],46.837227500026586
